US05859020
2.7 g (17.0 mmol) of 2-decanol were added dropwise at 50° C. to a suspension of 650 mg (21.6 mmol) of sodium hydride (80% suspension in oil) in 60 ml of dry dimethylformamide, and the mixture was stirred until the evolution of hydrogen had ceased. The mixture was cooled to room temperature and 3.0 g (15.9 mmol) of 4-chloro-5-methoxy-6-ethoxypyrimidine (preparation analogously to Example C) were added in portions. After 30 minutes, the reaction temperature was increased to 50° C., and stirring was continued for 12 hours. The reaction mixture was poured into saturated ammonium chloride solution and subsequently extracted with diethyl ether. The combined organic phase was washed with water, dried over magnesium sulfate and concentrated in vacuo. The residue was chromatographed on silica gel using n-heptane/ethyl acetate (4:1). 1.4 g (28% of theory) of 4-(2-decyloxy)-5-methoxy-6-ethoxypyrimidine were obtained in the form of a yellow oil.

reactant | 2-decanol | 17.0 mmol, 2.7 g | CC(CCCCCCCC)O | C10H22O
reactant | sodium hydride | 21.6 mmol, 650 mg | [H-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | 4-chloro-5-methoxy-6-ethoxypyrimidine | 15.9 mmol, 3.0 g | ClC1=NC=NC(=C1OC)OCC | C7H9ClN2O2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
product | 4-(2-decyloxy)-5-methoxy-6-ethoxypyrimidine | 1.4 g, 28% | CC(CCCCCCCC)OC1=NC=NC(=C1OC)OCC | C17H30N2O3
